US07597722B2
A salt is formed by mixing water, sebacic acid and hexamethylene diamine (HMD) at a ratio of 1.5:1.03:1.0 respectively, at 55° C. At this temperature, the formed solution is 44% by weight. Hexamethylene diamine sebacate is formed. The solution pH is then adjusted to 7.5-8.0 by adding HMD. Additional HMD in an amount of 0.4 wt % with respect to the Hexamethylene diamine sebacate is added. Distillation and polymerization processes are then carried out in an autoclave for 100 minutes. At 250° C., the pressure is gradually dropped, while the polymerization proceeds, until atmospheric pressure is reached in the reactor, then the polymer is maintained at 274° C. for additional 50 min under stirring at a slight vacuum. The polyamide 6,10 is then discharged from the autoclave under nitrogen pressure, and chilled by water. The discharged solid polyamide strands are chopped to chips. The polyamide is characterized by a relative viscosity of RV=46-48, an amino end-group amount of 87-89 meq/Kg, a carboxyl end-group amount of 32-33 meq/Kg and the concentration of the titanium dioxide of 0.3% by weight

reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | hexamethylene diamine | NCCCCCCN | C6H16N2
solvent | water | O | H2O
product | Hexamethylene diamine sebacate | C(CCCCCCCCC(=O)O)(=O)O.NCCCCCCN | InChI=1S/C10H18O4.C6H16N2/c11-9(12)7-5-3-1-2-4-6-8-10(13)14;7-5-3-1-2-4-6-8/h1-8H2,(H,11,12)(H,13,14);1-8H2
